US06211215B1
To a mixture of 5-amino-2-methoxypyridine (5.00 g), 47% hydrobromic acid (8.75 g) and acetone (50 ml) was added dropwise a solution of sodium nitrite (3.06 g) in water (5 ml) at 5-10° C. After stirring for 30 minutes, methyl acrylate (20.8 g) was added, to which cuprous oxide (50 mg) was added while stirring vigorously at 15° C. After stirring for one hour at room temperature, the reaction mixture was concentrated, concentrated aqueous ammonia was added, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduce pressure. The residue was subjected to a silica gel chromatography. From the fraction eluted with ethyl acetate-hexane (1:9, v/v), methyl 2-bromo-3-(2-methoxy-5-pyridyl)propionate (6.40 g, 58%) was obtained. Oily substance.

reactant | 5-amino-2-methoxypyridine | 5.00 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | hydrobromic acid | 8.75 g | Br | BrH
reactant | sodium nitrite | 3.06 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 20.8 g | C(C=C)(=O)OC | C4H6O2
solvent | water | 5 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | methyl 2-bromo-3-(2-methoxy-5-pyridyl)propionate | 6.40 g, 58% | BrC(C(=O)OC)CC=1C=CC(=NC1)OC | C10H12BrNO3
